US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-4-methyl-2-(pyridin-3-yl)-1H-imidazole-5-carboxamide
4-methyl-2-(pyridin-3-yl)-1H-imidazole-5-carboxylic acid (78 mg; 0.384 mmol) and DIPEA (0.20 ml, 1.151 mmol) were dissolved in 5 ml of dry DMF. HOBt hydrate (88 mg; 0.575 mmol) and EDCI (110 mg; 0.575 mmol) were added at RT. Solid (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (100 mg; 0.384 mmol) was added in one portion and the reaction was stirred for 2 h at 60° C. temperature and stirred at RT overnight. Water (40 ml) was added and the mixture was allowed to stir 1 h at RT. The precipitated product was filtered, dried in vacuum at 40° C. for 12 h, to give the title compound 136 mg. 1H-NMR (400 MHz; d6-DMSO): δ 1.12 (d, 3H), 2.49 (s, 3H), 4.40 (m, 3H), 6.97 (d, 1H), 7.48 (m, 1H), 7.88 (m, 2H), 8.02 (m, 2H), 8.07 (d, 1H), 8.21 (m, 1H), 8.58 (m, 1H), 9.13 (d, 1H), 12.85 (s, 1H).

reactant | 4-methyl-2-(pyridin-3-yl)-1H-imidazole-5-carboxylic acid | 0.384 mmol, 78 mg | CC=1N=C(NC1C(=O)O)C=1C=NC=CC1 | C10H9N3O2
reactant | DIPEA | 1.151 mmol, 0.20 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt hydrate | 0.575 mmol, 88 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDCI | 0.575 mmol, 110 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.384 mmol, 100 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Water | 40 ml | O | H2O
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-4-methyl-2-(pyridin-3-yl)-1H-imidazole-5-carboxamide | 136 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=C(N=C(N1)C=1C=NC=CC1)C | C23H20ClN7O
